US06010708
In a one L (liter) two-necked flask were placed 102.1 g (0.38 mol) of heptadecanoic acid and 200 milliliter (mL) of cyclohexane, and the flask was equipped with a 100 mL dropping funnel containing 67.3 g (0.57 mol) of thionyl chloride and a reflux tube. Then, the heptadecanoic acid was completely dissolved under heating and stirring of the flask in an oil bath at 80° C. Thereafter the thionyl chloride was added dropwise over a period of 2 hours, and further the oil bath was maintained at 80° C. for one hour. From the resultant reaction mixture were removed the cyclohexane and the thionyl chloride under reduced pressure by means of an aspirator. The resultant reaction mixture was subjected to vacuum distillation. Thus 88.5 g (0.31 mol) of heptadecanoyl chloride was obtained in a yield of 81.2% based on the fed heptadecanoic acid.

reactant | heptadecanoic acid | 0.38 mol, 102.1 g | C(CCCCCCCCCCCCCCCC)(=O)O | C17H34O2
reactant | thionyl chloride | 0.57 mol, 67.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | cyclohexane | 200 milliliter | C1CCCCC1 | C6H12
product | heptadecanoyl chloride | 0.31 mol, 88.5 g, yield of 81.2% | C(CCCCCCCCCCCCCCCC)(=O)Cl | C17H33ClO
